US04929741
A solution of 6.9 g (40 mmol) of 2-(2-methoxyethoxy)-ethyl propiolate in 60 ml of tetrahydrofuran was treated at -78° under argon with 25 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 6 g (40 mmol) of 3,4-methylenedioxy-benzaldehyde in 60 ml of tetrahydrofuran was added within 30 minutes. The reaction mixture was stirred at -78° for a further 30 minutes then brought to room temperature and treated with 100 ml of saturated ammonium chloride solution The aqueous phase was extracted twice with ether. The combined organic phases were washed in succession with saturated sodium chloride solution and with water, dried over sodium sulphate and concentrated. The residue was purified by flash chromatography on 600 g of silica gel (elution agent methylene chloride/ether 4:1). There was obtained 2-(2-methoxyethoxy)ethyl 4-hydroxy-4-[3,4(methylenedioxy)phenyl]-2 -butynoate as a yellow oil.

reactant | 2-(2-methoxyethoxy)-ethyl propiolate | 40 mmol, 6.9 g | C(C#C)(=O)OCCOCCOC | C8H12O4
reactant | n-butyllithium | 1.6M, 25 ml | C(CCC)[Li]
reactant | 3,4-methylenedioxy-benzaldehyde | 40 mmol, 6 g | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(2-methoxyethoxy)ethyl 4-hydroxy-4-[3,4(methylenedioxy)phenyl]-2 -butynoate | OC(C#CC(=O)OCCOCCOC)C1=CC2=C(C=C1)OCO2 | C16H18O7
